US08937078B2
Step A: Preparation of 1-(4-tert-butyl-phenylsulfanyl)-2-chloro-4-nitro-benzene:
Neat 1,8-diazabicyclo[5.4.0]undec-7-ene (DBU, 1.2 mL, 7.8 mmol) was added dropwise to a solution of 4-tert-butylthiophenol (0.95 g, 5.7 mmol), 3,4-dichloronitrobenzene (1.0 g, 5.2 mmol), and DMF (15 mL). The solution was stirred for 1 h at ambient temperature then 1 h at 60° C. The mixture was allowed to cool and was poured over ice. The resulting yellow precipitate was collected and dried. The crude product was used without further purification.

reactant | 1,8-diazabicyclo[5.4.0]undec-7-ene | 7.8 mmol, 1.2 mL | N12CCCCCC2=NCCC1 | C9H16N2
reactant | 4-tert-butylthiophenol | 5.7 mmol, 0.95 g | C(C)(C)(C)C1=CC=C(C=C1)S | C10H14S
reactant | 3,4-dichloronitrobenzene | 5.2 mmol, 1.0 g | ClC=1C=C(C=CC1Cl)[N+](=O)[O-] | C6H3Cl2NO2
solvent | DMF | 15 mL | CN(C)C=O | C3H7NO
product | 1-(4-tert-butyl-phenylsulfanyl)-2-chloro-4-nitro-benzene | C(C)(C)(C)C1=CC=C(C=C1)SC1=C(C=C(C=C1)[N+](=O)[O-])Cl | C16H16ClNO2S
